US04207234
3-Amino-1-(2-methoxycarbonyl-1-phenylethyl)-2-azetidinone (1.3 g.) was added to methylene chloride (30 ml.), and then bis(trimethylsilyl)acetamide (3.05 g.) was added thereto. To the solution, there was dropwise added methylene chloride (30 ml.) solution containing 2-(2,2-dichloroacetoxyimino)-2-phenylacetic acid (1.9 g.) and phosphorus pentachloride (1.7 g.) at -40° to -35° C. in the course of 5 minutes. The mixture was stirred at the same temperature for 15 minutes and additionally stirred at 5° C. for 15 minutes. An aqueous sodium bicarbonate was added to the reaction mixture and the mixture was stirred at ambient temperature for 5 minutes. The methylene chloride layer was separated from the mixture, washed with dilute hydrochloric acid, an aqueous sodium bicarbonate and water in turn, and then dried over magnesium sulfate. The solvent was removed by distillation under reduced pressure to give a residue, which was subjected to column chromatography on silica gel (100 g.). Elution was carried out with chloroform and the fractions containing a desired compound were collected. The solvent was distilled off from the eluate under reduced pressure to give crystals of 3-(2-hydroxyimino-2-phenylacetamido)-1-(2-methoxycarbonyl-1-phenylethyl)-2-azetidinone (0.74 g.).

reactant | 3-Amino-1-(2-methoxycarbonyl-1-phenylethyl)-2-azetidinone | 1.3 g | NC1C(N(C1)C(CC(=O)OC)C1=CC=CC=C1)=O | C13H16N2O3
reactant | bis(trimethylsilyl)acetamide | 3.05 g | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
reactant | 2-(2,2-dichloroacetoxyimino)-2-phenylacetic acid | 1.9 g | ClC(C(=O)ON=C(C(=O)O)C1=CC=CC=C1)Cl | C10H7Cl2NO4
reactant | phosphorus pentachloride | 1.7 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 3-(2-hydroxyimino-2-phenylacetamido)-1-(2-methoxycarbonyl-1-phenylethyl)-2-azetidinone | 0.74 g | ON=C(C(=O)NC1C(N(C1)C(CC(=O)OC)C1=CC=CC=C1)=O)C1=CC=CC=C1 | C21H21N3O5
